US04340607
3-methyl-2-[4-(1-methylethoxy)phenyl]-3H-naphtho[1,2-d]imidazole
A solution of 11.16 g (0.06 mole) of 2-methylamino-1-nitrosonaphthalene in 800 cc of toluene is hydrogenated at room temperature and at the atmospheric pressure in the presence of 3 g of Palladium-on-carbon. After one hour, when the theoretical amount of hydrogen has been consumed, 0.06 mole of 4-(1-methylethoxy)-benzaldehyde are added and the obtained reaction mixture is heated to the reflux temperature under an inert atmosphere for about 3 hours. The water which forms during the reaction distillates as binary azeotrope with toluene and is separated through a Dean-Stark apparatus. Then further 1.5 g of 5% Palladium-on-carbon are added and reflux is prolonged for two additional hours. Filtration of the hot solution followed by concentration of the filtrate to dryness under vacuum affords a residue which has been purified by cristallization from ethyl ether. M.p. 144°-5° C.

reactant | 2-methylamino-1-nitrosonaphthalene | 0.06 mole, 11.16 g | CNC1=C(C2=CC=CC=C2C=C1)N=O | C11H10N2O
reactant | 4-(1-methylethoxy)-benzaldehyde | 0.06 mole | CC(C)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | water | O | H2O
solvent | toluene | 800 cc | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium-on-carbon | 3 g | [Pd] | Pd
product | 3-methyl-2-[4-(1-methylethoxy)phenyl]-3H-naphtho[1,2-d]imidazole | CN1C(=NC2=C1C=CC1=CC=CC=C12)C1=CC=C(C=C1)OC(C)C | C21H20N2O
